US07179839B2
4-FLUORO-N-[5-(1-HYDROXY-ETHYL)-INDAN-2-yl]-BENZAMIDE
400 mg (1.35 mmol) N-(5-acetyl-indan-2-yl)-4-fluoro-benzamide were dissolved in 10 ml of methanol, then 100 mg (2.7 mmol) sodium borohydride were added. The mixture was worked up by dropping onto ice/HCl, the resulting solid was filtered off.

reactant | N-(5-acetyl-indan-2-yl)-4-fluoro-benzamide | 1.35 mmol, 400 mg | C(C)(=O)C=1C=C2CC(CC2=CC1)NC(C1=CC=C(C=C1)F)=O | C18H16FNO2
reactant | sodium borohydride | 2.7 mmol, 100 mg | [BH4-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 4-FLUORO-N-[5-(1-HYDROXY-ETHYL)-INDAN-2-yl]-BENZAMIDE | FC1=CC=C(C(=O)NC2CC3=CC=C(C=C3C2)C(C)O)C=C1 | C18H18FNO2
